US05166170
1-(4-Amino-3-pyridinyl)ethanone phenylhydrazone
Phenylhydrazine (4.0 ml) was added to 5.00 g 1-(4-amino-3-pyridinyl)ethanone, and the mixture was stirred at 100° C. for seventeen hours. A similar procedure was followed using 4.0 g 1-(4-amino-3-pyridinyl)ethanone and 3.20 ml phenylhydrazine. The products of the two reactions were combined and purified by flash chromatography to yield 9.74 g solid. Recrystallization of 1.24 g from CH3OH/water yielded 0.28 g solid, m.p. 168°-170° C.

reactant | Phenylhydrazine | 4.0 ml | C1(=CC=CC=C1)NN | C6H8N2
reactant | 1-(4-amino-3-pyridinyl)ethanone | 5.00 g | NC1=C(C=NC=C1)C(C)=O | C7H8N2O
reactant | 1-(4-amino-3-pyridinyl)ethanone | 4.0 g | NC1=C(C=NC=C1)C(C)=O | C7H8N2O
reactant | phenylhydrazine | 3.20 ml | C1(=CC=CC=C1)NN | C6H8N2
product | 1-(4-Amino-3-pyridinyl)ethanone phenylhydrazone | 9.74 g | C1(=CC=CC=C1)NN=C(C)C=1C=NC=CC1N | C13H14N4
